US07312330B2
B. 7-Benzyl-4-chloro-5,6,7,8-tetrahydro-2-(methylthio)pyrido[3,4-d]pyrimidine
N,N-Dimethylaniline (3.2 g, 26.6 mmol) and phosphorus oxychloride (32.6 g, 213 mmol) were added to the solution of 7-benzyl-5,6,7,8-tetrahydro-2-(methylthio)pyrido[3,4-d]pyrimidin-4(4aH)-one (7.6 g, 26.6 mmol) in 1,2-dichloroethane (20 mL, anhydrous) and were stirred in a preheated oil bath at 90° C. for 1 hr. Reaction mixture was poured into ice, neutralized by solid sodium carbonate, extracted by ethyl acetate and dried over sodium sulfate. Solvent was removed in vacuo and light brown oil residue was used directly in the next step.

reactant | N,N-Dimethylaniline | 26.6 mmol, 3.2 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | phosphorus oxychloride | 213 mmol, 32.6 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-benzyl-5,6,7,8-tetrahydro-2-(methylthio)pyrido[3,4-d]pyrimidin-4(4aH)-one | 26.6 mmol, 7.6 g | C(C1=CC=CC=C1)N1CC2=NC(=NC(C2CC1)=O)SC | C15H17N3OS
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | 7-Benzyl-4-chloro-5,6,7,8-tetrahydro-2-(methylthio)pyrido[3,4-d]pyrimidine | C(C1=CC=CC=C1)N1CC=2N=C(N=C(C2CC1)Cl)SC | C15H16ClN3S
